US04046900
To a stirring solution of 8.0 g of 4-(2,4-dimethoxybenzoyl)piperidine hydrochloride and 6 ml of triethylamine in 250 ml of dimethylformamide is added a solution of 6.4 g of 3-(2-bromoethyl)indole in 50 ml of dimethylformamide. The reaction mixture is permitted to stir at ambient temperature for 72 hours and then 500 ml of water is added dropwise and extracted with chloroform. The combined extracts are dried and most of the chloroform removed leaving a dark oil. The oil is subjected to column chromatography on a silica gel column and eluting with a 3% methanol in chloroform solution to give 3-{2-[4-(2,4-dimethoxybenzoyl)piperidyl]ethyl}indole. The indole is recrystallized thrice from an ethanol-water mixture to give the pure indole, mp 110°-112° C.

reactant | 4-(2,4-dimethoxybenzoyl)piperidine hydrochloride | 8.0 g | Cl.COC1=C(C(=O)C2CCNCC2)C=CC(=C1)OC
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-bromoethyl)indole | 6.4 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-{2-[4-(2,4-dimethoxybenzoyl)piperidyl]ethyl}indole | COC1=C(C(=O)C2CCN(CC2)CCC2=CNC3=CC=CC=C23)C=CC(=C1)OC | C24H28N2O3
